US09163021B2
(3-isopropyl-5-methyl-1H-pyrazol-1-yl)acetic acid
A mixture of ethyl (3-isopropyl-5-methyl-1H-pyrazol-1-yl)acetate (Preparation 129, 571 mg, 2.72 mmol) and LiOH (342 mg, 8.15 mmol) in IMS (5 mL) and water (4 mL) was stirred at room temperature for 30 minutes. The reaction was acidified with 2M HCl and extracted with EtOAc. The organic layer was collected, washed with brine, dried over MgSO4 and concentrated in vacuo to afford the title compound as a cream solid (328 mg, 66%).

reactant | ethyl (3-isopropyl-5-methyl-1H-pyrazol-1-yl)acetate | 2.72 mmol, 571 mg | C(C)(C)C1=NN(C(=C1)C)CC(=O)OCC | C11H18N2O2
reactant | LiOH | 8.15 mmol, 342 mg | [Li+].[OH-]
reactant | HCl | 2M | Cl | ClH
solvent | water | 4 mL | O | H2O
product | (3-isopropyl-5-methyl-1H-pyrazol-1-yl)acetic acid | 328 mg, 66% | C(C)(C)C1=NN(C(=C1)C)CC(=O)O | C9H14N2O2
